US04518597
6-[4-(4-Acetamido-phenylsulfinyl)-butoxy]-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 6-[4-(4-acetamido-phenylmercapto)-butoxy]-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 6-[4-(4-acetamido-phenylmercapto)-butoxy]-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one | C(C)(=O)NC1=CC=C(C=C1)SCCCCOC=1C=C(C2=C(C(OC(N2)=O)(C)C)C1)C | C23H28N2O4S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(4-Acetamido-phenylsulfinyl)-butoxy]-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one | C(C)(=O)NC1=CC=C(C=C1)S(=O)CCCCOC=1C=C(C2=C(C(OC(N2)=O)(C)C)C1)C | C23H28N2O5S
